US04339579
2-(6-Chloro-2-pyrazinyl)-octahydro-2H-pyrido [1,2-a]pyrazine
A solution of octahydro-2H-pyrido[1,2-a]pyrazine (4 gm, 0.029 moles), 2,6-dichloropyrazine (4.28 gm, 0.029 moles) and triethylamine (8 ml. 0.06 moles) in 75 ml of acetonitrile is heated under reflux for 4 hours. After cooling, the precipitate is filtered off and washed with a little acetonitrile. The filtrate is concentrated under reduced pressure and the resulting residue is partitioned between water and ether. The aqueous layer is made basic with potassium carbonate and extracted 3 times with 100 ml. portions of ether. The combined ether layer is washed with saline and dried over sodium sulfate. After filtering off the drying agent the clear filtrate is made acidic with dry hydrogen chloride gas. The precipitate is filtered off, washed with ether and dried. After two crystallizations from ethanol there is obtained a 4.5 gm (54 percent) yield of title compound, m.p. 298°-301° C.

reactant | octahydro-2H-pyrido[1,2-a]pyrazine | 0.029 moles, 4 gm | C1C2N(CCN1)CCCC2 | C8H16N2
reactant | 2,6-dichloropyrazine | 0.029 moles, 4.28 gm | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | triethylamine | 0.06 moles, 8 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 2-(6-Chloro-2-pyrazinyl)-octahydro-2H-pyrido [1,2-a]pyrazine | ClC1=CN=CC(=N1)N1CC2N(CC1)CCCC2 | C12H17ClN4
